US04460597
4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-[2-(N-methylanilino)ethoxy]pyrazole (Compound 2)
2.7 g of 5-(2-anilinoethoxy)-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole prepared by the procedure of Example 1 or 3 was dissolved in 25 ml of benzene, then 0.7 ml of dimethyl sulphate was added and the mixture heated under reflux for 3 hours with stirring. After cooling of the mixture and washing with water, the organic layer was dried over anhydrous sodium sulphate and the solvent distilled off to give 2.4 g of the desired product, Compound 2, similar to that of Examples 2 and 3 (yield 86%).

reactant | 5-(2-anilinoethoxy)-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole | 2.7 g | N(C1=CC=CC=C1)CCOC1=C(C(=NN1C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O | C20H19Cl2N3O2
reactant | dimethyl sulphate | 0.7 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-[2-(N-methylanilino)ethoxy]pyrazole | 2.4 g | ClC1=C(C(=O)C=2C(=NN(C2OCCN(C2=CC=CC=C2)C)C)C)C=CC(=C1)Cl | C21H21Cl2N3O2
